US08039472B2
3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid [8-[1-(3,4-difluoro-benzyl)-6-oxo-1,6-dihydro-pyridine-3-carbonyl]-1,3,8-triaza-spiro[4.5]dec-(2E)-ylidene]-amide
A solution of 1-(3,4-Difluoro-benzyl)-6-oxo-1,6-dihydro-pyridine-3-carboxylic acid (0.15 mmol) in NMP (0.5 ml) is added to a solution of 3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid [1,3,8-triaza-spiro[4.5]dec-(2E)-ylidene]-amide dihydrochloride (Ex. 38) (0.049 g, 0.15 mmol) and N-methyl morpholine (0.033 ml, 0.30 mmol) in NMP (1 ml), followed by a solution of HATU (0.11 g, 0.3 mmol) in NMP (0.5 ml). The reaction mixture is shaken at room temperature overnight. The reaction mixture is purified by mass-directed preparative HPLC. Fractions containing pure product are eluted through SCX-2 cartridges (Biotage 1 g/6 ml cartridge), and the cartridge is washed with MeOH (4 ml), followed by 3M NH3 in MeOH solution (4 ml) to afford the title compound; [M+H]+ 572.0

reactant | 1-(3,4-Difluoro-benzyl)-6-oxo-1,6-dihydro-pyridine-3-carboxylic acid | 0.15 mmol | FC=1C=C(CN2C=C(C=CC2=O)C(=O)O)C=CC1F | C13H9F2NO3
reactant | 3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid [1,3,8-triaza-spiro[4.5]dec-(2E)-ylidene]-amide dihydrochloride | 0.15 mmol, 0.049 g | Cl.Cl.N1\C(\NCC12CCNCC2)=N\C(=O)C2=NC(=C(N=C2N)N)Cl
reactant | N-methyl morpholine | 0.30 mmol, 0.033 ml | CN1CCOCC1 | C5H11NO
reactant | HATU | 0.3 mmol, 0.11 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | NMP | 0.5 ml | CN1CCCC1=O | C5H9NO
solvent | NMP | 1 ml | CN1CCCC1=O | C5H9NO
solvent | NMP | 0.5 ml | CN1CCCC1=O | C5H9NO
product | 3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid [8-[1-(3,4-difluoro-benzyl)-6-oxo-1,6-dihydro-pyridine-3-carbonyl]-1,3,8-triaza-spiro[4.5]dec-(2E)-ylidene]-amide | FC=1C=C(CN2C=C(C=CC2=O)C(=O)N2CCC3(CN/C(/N3)=N\C(=O)C3=NC(=C(N=C3N)N)Cl)CC2)C=CC1F | C25H24ClF2N9O3
